US07094777B2
1-(4-Fluorophenyl)-2-(3-{[(4-fluorophenyl)sulfonyl]methyl}azetidin-1-yl)ethanone
A mixture of 3-{[(4-fluorophenyl)sulfonyl]methyl}azetidine hydrochloride (75 mg, 0.28 mmol) in MeCN (5 mL) was treated with Et3N (97 μL, 0.7 mmol) and 2-bromo-4′-fluorophenylacetophenone (68 mg, 0.31 mmol) and stirred for 30 min at room temperature. The reaction was evaporated and the residue dissolved in DCM and purified using silica chromatography. The column was eluted with 1% MeOH/DCM to give the title compound as a white solid (70 mg, 68%). 1H NMR (500 MHz, CDCl3) δ 2.94–2.99 (1H, m), 3.10 (2H, t, J=7.4 Hz), 3.42 (2H, d, J=7.4 Hz), 3.62 (2H, t, J=7.4 Hz), 3.87 (2H, s), 7.12 (2H, t, J=8.8 Hz), 7.25 (2H, t, J=8.6 Hz), 7.90–7.94 (4H, m). m/z (ES+) 366 (M+H)+.

reactant | 3-{[(4-fluorophenyl)sulfonyl]methyl}azetidine hydrochloride | 0.28 mmol, 75 mg | Cl.FC1=CC=C(C=C1)S(=O)(=O)CC1CNC1
reactant | Et3N | 0.7 mmol, 97 μL | CCN(CC)CC | C6H15N
reactant | 2-bromo-4′-fluorophenylacetophenone | 0.31 mmol, 68 mg | BrC1=C(C=CC=C1)CC(=O)C1=CC=C(C=C1)F | C14H10BrFO
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 1-(4-Fluorophenyl)-2-(3-{[(4-fluorophenyl)sulfonyl]methyl}azetidin-1-yl)ethanone | 70 mg, 68% | FC1=CC=C(C=C1)C(CN1CC(C1)CS(=O)(=O)C1=CC=C(C=C1)F)=O | C18H17F2NO3S
